US06953806B2
In analogy to the procedure described in example 3.4, trans-N-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 4-(4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexyloxy)-butyl ester as colorless solid, MS: 502 (M+).

reactant | trans-N-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | OCCCCO[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H28F3NO4S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 4-(4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexyloxy)-butyl ester | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C[C@@H]1CC[C@H](CC1)OCCCCOS(=O)(=O)C | C20H30F3NO6S2
